US07064205B2
Isolation of 1-methoxyethyl-5,5-diphenylbarbituric acid
To the aqueous phase was added hydrochloric acid (32%, 0.32 L), while keeping the temperature below 20° C. The methanol was then distilled out of the mixture at reduced pressure, and the resulting precipitate was filtered and dried to provide a crude product (0.366 kg) containing 1-methoxymethyl-5,5-diphenylbarbituric acid (78% w/w), 5,5-diphenylbarbituric acid (6% w/w), and 1,3-bis(methoxymethyl)-5,5-diphenylbarbituric acid (2.7% w/w).

reactant | 1-methoxymethyl-5,5-diphenylbarbituric acid | COCN1C(=O)NC(=O)C(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H16N2O4
reactant | 5,5-diphenylbarbituric acid | C1(=CC=CC=C1)C1(C(NC(NC1=O)=O)=O)C1=CC=CC=C1 | C16H12N2O3
reactant | 1,3-bis(methoxymethyl)-5,5-diphenylbarbituric acid | COCN1C(=O)N(C(=O)C(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)COC | C20H20N2O5
product | 1-methoxyethyl-5,5-diphenylbarbituric acid | COC(C)N1C(=O)NC(=O)C(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H18N2O4
